US05420275
8-Amino-7-phenyl-5-(tetrazol-1-yl)pyrido[3,4-d]pyridazine-1,4(2H,3H)dione (L-041)
In 2 ml of ethanol was dissolved 0.172 g of 3-amino-4,5-diethoxycarbonyl-2-phenyl-6-(tetrazol-1-yl)pyridine, whereto 1 ml of hydrazine monohydrate was added. The mixture was reacted at 90° C. for 2 hours. After 15 ml of ethanol was added, the mixture was cooled. The precipitate was collected by filtration and washed with ethanol. The thus-obtained precipitate was dissolved in 20 ml of hot water, and 0.7 ml of acetic acid was added. The mixture was cooled, and the resulting precipitate was collected by filtration, washed and dried, to give 0.11 g of the title compound as yellow crystals.

reactant | 3-amino-4,5-diethoxycarbonyl-2-phenyl-6-(tetrazol-1-yl)pyridine | 0.172 g | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)N1N=NN=C1)C1=CC=CC=C1 | C18H18N6O4
reactant | hydrazine monohydrate | O.NN
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 8-Amino-7-phenyl-5-(tetrazol-1-yl)pyrido[3,4-d]pyridazine-1,4(2H,3H)dione | 0.11 g | NC1=C(N=C(C=2C(NNC(C21)=O)=O)N2N=NN=C2)C2=CC=CC=C2 | C14H10N8O2
